US05661157
N-[2-(3,4-Dimethoxyphenyl)ethyl]-mandelic acid amide
33.2 g (0.2 Mol) of methyl mandelate and 72 g (0.4 Mol) of 2-(3,4-dimethoxyphenyl)-ethylamine are heated to 160°-165° C. under an N2 atmosphere with stirring, for 5 hours using a descending condenser (to remove the methanol released). The cooled residue-is dissolved in 300 ml of ethyl acetate, washed twice with 100 ml of 2N HCl, once with saturated NaHCO3 solution and saturated NaCl solution, dried over MgSO4 and distilled off from the solvent.

reactant | methyl mandelate | 0.2 Mol, 33.2 g | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
reactant | 2-(3,4-dimethoxyphenyl)-ethylamine | 0.4 Mol, 72 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
product | N-[2-(3,4-Dimethoxyphenyl)ethyl]-mandelic acid amide | COC=1C=C(C=CC1OC)CCNC(C(O)C1=CC=CC=C1)=O | C18H21NO4
